Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultram / Methadone / Avelox / Cymbalta / fluoroquinolones / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
RLE pain, erythema, edema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of CAD (s/p CABG ___, sCHF ___ TTE shows EF35-40% 
w/1+ AR, ___, AFIB and complete heart block s/p PPM ___ 
___ Sensia SESR01 placed at ___, Lupus anticoagulant w/ 
hx of DVT (now on Dabigatran), myasthenia ___ on 
IVIG/prednisone, asplenia d/t ITP, and depression presenting to 
___ w/right lower extremity pain and edema.

He first felt pain in his R shin on ___, a day after he 
flew down to ___ to visit his cousin.  The following days he 
then noticed some redness and swelling overlying this area and 
also involving the R knee.  The R knee redness disappeared but R 
shin pain/erythema continued.  He went to a doctor in ___ 
who gave him IV antibiotics x 1 (unsure what it was) and 
discharged him with a rx for dicloxacillin.  They also performed 
DVT US of bilateral lower extremities which was negative (pt has 
records with him).  He said these interventions initially made 
the redness go down but starting about ___ the redness 
started spreading again.  No fevers or chills.  No inciting 
trauma.  This has never happened before.

Mr. ___ also endorses some R groin/buttock "deep" pain that 
started after the US and some L elbow pain that has been ongoing 
for the past several weeks.  He says these pains have now made 
it more difficult to walk.  Also endorses some facial and back 
scabs that are chronic and sometimes hurt.  Denies shortness of 
breath, chest pain/pressure, cough, headache, dizziness, 
diaphoresis, dysuria, abd pain, constipation/diarrhea, or 
myalgias/arthralgias other than mentioned above.  

In the ED, initial vitals were: 
___ 84 pulse, 166/89, 16, 99% RA 

He received:
___ 09:36 IV Vancomycin 1000 mg 
 
On the floor, initial vitals were: 98.8 135/64 77 19 100RA 
 
Past Medical History:
- CAD s/p CABG ___
- Systolic CHF with EF 40-45%
- Myasthenia ___ on IVIG, prednisone
- ITP s/p splenectomy
- CHB s/p PPM
- DVT ___ years ago, in RLE)
- Esophageal spasm
- Degenerative disc disease and chronic back pain with 
neuropathy 
of feet
- HTN
- HLD
- Depression
- OSA
- OA, knee arthroscopy
- Lupus anticoagulant

 
Social History:
___
Family History:
Coronary artery disease, diabetes, stomach and luncg cancer
 
Physical Exam:
Admission:
VS: 98.8 165/64 77 19 100RA  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: large scar anteriorly, regular rate and rhythm, normal S1 
S2, no murmurs, rubs, gallops  
 ABD: obese abdomen that is not TTP  
 EXT: RLE shows circumferential erythema, pitting edema, and 
tenderness to palpation on the mid-shin with overlying skin 
crackling; there are no open lesions in this area; open lesion 
noted on R ___ toe  
 SKIN: venous stasis changes bilateral lower extremities; face 
has around 10 scabbed lesions that are non-purulent; these also 
exist on his back and a few have a pustular appearance  
 NEURO: gait slow, states due to chronic back pain; strength ___ 
throughout  

Discharge:
VS: 97.8 111/50 63 18 100RA  
 GENERAL: NAD, alert, interactive  
 HEENT: NC/AT, sclerae anicteric, MMM  
 LUNGS: Clear to auscultation except minor crackles at b/l 
bases, otherwise no w/r/r  
 HEART: RRR no murmurs  
 ABDOMEN: NABS, soft/NT/ND.  
 EXTREMITIES: RLE shows circumferential erythema, pitting edema, 
and tenderness to palpation on the mid-shin with overlying skin 
crackling that is overall improved in appearance with mild edema 
on medial aspect of shin; there are no open lesions in this 
area; open lesion noted on R ___ toe 

 
Pertinent Results:
Admission:
___ 08:30AM BLOOD WBC-9.6 RBC-3.90* Hgb-11.8* Hct-37.7* 
MCV-97 MCH-30.3 MCHC-31.3* RDW-15.9* RDWSD-56.1* Plt ___
___ 08:30AM BLOOD Glucose-102* UreaN-39* Creat-1.4* Na-139 
K-4.7 Cl-102 HCO3-24 AnGap-18
___ 08:30AM BLOOD Calcium-9.9 Phos-4.0 Mg-2.1

RLE US ___
IMPRESSION:  
Subcutaneous edema, without focal fluid collection in the area 
of clinical 
concern as indicated by the patient. 

DVT US RLE ___
IMPRESSION:  
No evidence of deep venous thrombosis in the right lower 
extremity veins. 

Pelvic Xray ___
IMPRESSION:  
No acute bony injury seen.  No radiographic evidence for 
avascular necrosis of the right femoral head. 

Discharge:
___ 07:10AM BLOOD WBC-7.5 RBC-3.90* Hgb-11.8* Hct-38.0* 
MCV-97 MCH-30.3 MCHC-31.1* RDW-15.9* RDWSD-55.9* Plt ___
___ 07:10AM BLOOD Glucose-87 UreaN-23* Creat-1.0 Na-137 
K-4.5 Cl-103 HCO3-27 AnGap-12
___ 07:10AM BLOOD Calcium-9.6 Phos-3.0 Mg-1.___ yo M with extensive PMH including CHF with reduced EF 40%, 
CAD s/p CABG and PCI, myasthenia ___, and asplenia who 
presents with RLE erythema and edema most consistent with 
cellulitis.

#RLE erythema, pain: unilateral erythema, edema and warmth to 
touch most c/w cellulitis.  Where this infection came from could 
very well be the open lesion on his R ___ toe.  There is no 
history of trauma.  Exam at admission not consistent with 
compartment syndrome.  US of RLE revealed no abscess or pocket 
of edema amenable to drainage.  He was treated with IV 
Vancomycin x 2 days and one day of po amoxicillin/doxycycline 
which provided clinical improvement.  He was discharged on 6 
days of po doxycycline and Keflex to complete a 10-day course.

#R Hip pain: no overlying skin changes and patient has decent 
ROM without pain.  Xray negative for avascular necrosis.  Low 
concern for septic arthritis.  Urine G/C and RPR negative.  Uric 
acid elevated at 8.7.  CRP elevated at 13.2.  Outpt rheum 
appointment scheduled.

#L elbow pain: TTP on exam, likely musculoskeletal pain.  No 
overlying skin changes.  Plan as above.

___: Cr baseline 1.0-1.1 with Cr of 1.4 on admission.  BUN 39.  
Pre-renal due to CHF and poor renal perfusion.  Held Lasix ___ 
and ___ which resulted in improvement of Cr to 1.0 on day of 
discharge ___.

CHRONIC ISSUES

#CAD s/p CABG ___ and PCI ___: Asa, statin, beta blocker

#Systolic CHF with EF 35-40%, w/1+ AR, ___ on ___ TTE: 
beta blocker, lisinopril, spironolactone, Lasix

#Myasthenia ___ on IVIG monthly: continued pred and 
pyridostigmine

#DVT with positive lupus anticoagulant: continued dabigatran

#DJD of spine s/p multiple surgeries: dilaudid continued

#Asplenia

#Complete heart block s/p PPM

#HTN: stable

#HLD: statin

#Depression: venlafaxine 150 mg XR

#OSA: no CPAP use at home.

****ADMISSION WEIGHT: 120.66 kg****
****DISCHARGE WEIGHT: 115.20 kg****

TRANSITIONAL ISSUES
-Missed his ___ dose of IVIG, he is working on rescheduling 
this
-Follow up with PCP and ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 15 mg PO DAILY 
2. Acetaminophen 1000 mg PO Q8H:PRN pain 
3. Lisinopril 10 mg PO DAILY 
4. Gabapentin 900 mg PO BID 
5. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
6. solifenacin 10 mg oral DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Dabigatran Etexilate 150 mg PO BID 
9. Baclofen 20 mg PO TID 
10. Simvastatin 40 mg PO QPM 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. HYDROmorphone (Dilaudid) 8 mg PO Q6H x2 doses PRN back pain 
13. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
14. Pyridostigmine Bromide 60 mg PO Q8H 
15. Omeprazole 40 mg PO Frequency is Unknown 
16. Pantoprazole 40 mg PO Q24H 
17. Modafinil 300 mg PO DAILY 
18. Mycophenolate Mofetil 1500 mg PO BID 
19. Furosemide 60 mg PO DAILY 
20. Spironolactone 25 mg PO DAILY 
21. FoLIC Acid 1 mg PO DAILY 
22. Ascorbic Acid ___ mg PO DAILY 
23. Cyanocobalamin 100 mcg PO DAILY 
24. Tamsulosin 0.8 mg PO QHS 
25. Venlafaxine XR 112.5 mg PO DAILY 
26. Aspirin 325 mg PO DAILY 
27. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600-800  oral BID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Ascorbic Acid ___ mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Baclofen 30 mg PO TID 
RX *baclofen 10 mg 3 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
5. Cyanocobalamin 100 mcg PO DAILY 
6. Dabigatran Etexilate 150 mg PO BID 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Furosemide 60 mg PO DAILY 
10. Gabapentin 900 mg PO BID 
11. HYDROmorphone (Dilaudid) 8 mg PO Q6H:PRN back pain 
RX *hydromorphone 8 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
12. Lisinopril 10 mg PO DAILY 
13. Metoprolol Succinate XL 100 mg PO DAILY 
14. Mycophenolate Mofetil 1500 mg PO BID 
15. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
16. PredniSONE 15 mg PO DAILY 
17. Pyridostigmine Bromide 90 mg PO BID 
RX *pyridostigmine bromide 180 mg 0.5 (One half) tablet(s) by 
mouth twice a day Disp #*30 Tablet Refills:*0
18. Simvastatin 40 mg PO QPM 
19. Spironolactone 25 mg PO DAILY 
20. Tamsulosin 0.8 mg PO QHS 
21. Venlafaxine XR 112.5 mg PO DAILY 
22. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [COLACE Clear] 50 mg 1 capsule(s) by mouth 
twice a day Disp #*30 Capsule Refills:*0
23. Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth once a day Disp 
#*30 Capsule Refills:*0
24. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600-800  oral BID 
25. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
26. Modafinil 300 mg PO DAILY 
27. Pantoprazole 40 mg PO Q24H 
28. solifenacin 10 mg oral DAILY 
29. Doxycycline Hyclate 100 mg PO Q12H Duration: 6 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*16 Capsule Refills:*0
30. Cephalexin 500 mg PO Q6H Duration: 6 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*32 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cellulitis
Acute kidney injury

Secondary: 
Coronary artery disease
Congestive Heart Failure
Myasthenia ___
Asplenia secondary to ITP
Complete heart block now with permanent pacemaker
DVT with + lupus anticoagulant
Degenerative joint disease of back
Hypertension
Hyperlipidemia
OSA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

You were hospitalized ___ for a skin infection 
called cellulitis of your right leg.  You were treated with IV 
and oral antibiotics and your infection improved.  You should 
continue oral antibiotics upon discharge with the prescription 
we're giving you.  You were also seen by the physical therapists 
who recommend outpatient ___.  You had some joint pain while 
hospitalized so we arranged an outpatient appointment with a 
rheumatologist.  As you have heart disease, we ask that you 
please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs.  You should also return to the ED if you 
experience fevers or you think that your cellulitis is getting 
worse.

It was a pleasure taking care of you!
Your ___ team
 
Followup Instructions:
___